US04544670
The Preparation of 1-(4-Chlorophenylacetyl)-3-Methylguanidine Hydrochloride
8.80 g of a 50% aqueous sodium hydroxide solution, methylguanidine sulfate (13.44 g), and 100 ml of acetone, are stirred for 21/2 hrs at RT. The resulting mixture is then treated with anhydrous sodium sulfate (6.0 g), and stirring is continued for 1 hr. A solution of 4-chlorophenylacetylchloride (9.45 g) in 50 ml of acetone is added to the mixture dropwise, and stirring continued overnight at RT. The reaction mixture is filtered, the filtrate diluted with 100 ml of saturated sodium bicarbonate and the acetone evaporated in vacuo. The aqueous residue is diluted with 100 ml of H2O and extracted with three 100 ml portions of methylene chloride. The combined organic extract is dried with sodium sulfate, filtered and concentrated in vacuo. The resulting yellow solution is treated with ethereal hydrochloric acid and evaporated in vacuo. The residue is stirred with diethyl ether for 1/2 hr. The diethyl ether insoluble solid is collected and dried in air. The product is recrystallized from acetonitrile to afford 5.66 g of a white crystalline solid, M.P. 183°-184° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylguanidine sulfate | 13.44 g | S(=O)(=O)(O)O.CNC(=N)N
reactant | sodium sulfate | 6.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-chlorophenylacetylchloride | 9.45 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(4-Chlorophenylacetyl)-3-Methylguanidine Hydrochloride | 5.66 g | Cl.ClC1=CC=C(C=C1)CC(=O)NC(=N)NC | InChI=1S/C10H12ClN3O.ClH/c1-13-10(12)14-9(15)6-7-2-4-8(11)5-3-7;/h2-5H,6H2,1H3,(H3,12,13,14,15);1H
